US03957430
a well defined print in a full yellow shade is obtained with no staining on adjacent white carpet. The wash off liquor contains a negligible quantity of colour. The 3-[2'-(phenylthio)ethoxy]propionitrile used as printing assistant in the above Example 4 is prepared as follows: 15.4 g 2-(phenylthio)ethanol and 0.3 g of a concentrated aqueous mixture of sodium and potassium hydroxides are stirred at room temperature and treated with 6.0 g acrylonitrile over a period of 2 hours. The temperature is not allowed to rise above 42°C. After the addition, stirring is continued for a further 2 hours. The alkaline catalyst is then neutralised with dilute sulphuric acid, the organic product is dissolved in ethyl acetate, washed with water, separated and dried over magnesium sulphate. The ethyl acetate is distilled leaving 18.3 g of 3-[2'-(phenylthio)-ethoxy]propionitrile.

reactant | 2-(phenylthio)ethanol | 15.4 g | C1(=CC=CC=C1)SCCO | C8H10OS
reactant | sodium | [Na] | Na
reactant | acrylonitrile | 6.0 g | C(C=C)#N | C3H3N
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[2'-(phenylthio)-ethoxy]propionitrile | 18.3 g | C1(=CC=CC=C1)SCCOCCC#N | C11H13NOS
